US07838672B2
A mixture of 3-hydrazino-7-methoxy-1,2,4-benzotriazine (0.5 g, 2.62 mmol) and 1,1,1-triethoxyethane (4.24 g, 26.15 mmol) was heated at 145° C. for 3 h, and the ethanol formed during the reaction was distilled off continuously. After cooling in a refrigerator for 12 h, the solid filtered off and washed with ether to give 7-methoxy-1-methyl[1,2,4]triazolo[3,4-c][1,2,4]benzotriazine (Compound Number 1, 0.5 g, 88% yield), 1H-NMR (300 MHz; CDCl3): 8.14 ppm (d, 1H, H-9); 8.14 ppm (d, 1H, H-9); 7.62 ppm (dd, 1H, H-8); 4.05 ppm (s, 3H, OMe); 3.19 ppm (s, 1H, CH3) (Compound no. 1 in table 1).

reactant | 3-hydrazino-7-methoxy-1,2,4-benzotriazine | 2.62 mmol, 0.5 g | N(N)C=1N=NC2=C(N1)C=CC(=C2)OC | C8H9N5O
reactant | 1,1,1-triethoxyethane | 26.15 mmol, 4.24 g | C(C)OC(C)(OCC)OCC | C8H18O3
solvent | ethanol | C(C)O | C2H6O
product | 7-methoxy-1-methyl[1,2,4]triazolo[3,4-c][1,2,4]benzotriazine | 0.5 g, 88% yield | COC1=CC2=C(N3C(N=N2)=NN=C3C)C=C1 | C10H9N5O
